US07157464B2
BINAP (230 mg, 0.37 mmol), Pd(II)acetate (417 mg, 0.186 mmol), tBuONa (1.25 g, 13 mmol), N-boc piperazine (1.9 g, 10.2 mmol) and THF (40 mL) were mixed together and stirred at room temperature for 30 min under a nitrogen atmosphere. 4-bromomethyl benzoate (2 g, 9.3 mmol) in THF (10 mL) was added to the mixture drop wise and heated at 70° C. for 14 h. Excess THF was then evaporated and extracted with ethyl acetate. The crude product was obtained on concentration of the ethyl acetate layer after washing with brine and drying. Flash chromatography on silica gel done eluting with 8% ethyl acetate in petroleum ether yielded pure N-BOC protected product. This intermediate (650 mg, 2.01 mmol) was dissolved in methanol (20 mL) and then HCl saturated ether (7 mL) was added. The mixture was stirred at room temperature for 14 hours and concentrated. The concentrate was washed with petroleum ether to obtain white solid compound, 4-Piperazin-1-yl-benzoic acid methyl ester.

reactant | BINAP | 0.37 mmol, 230 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | tBuONa | 13 mmol, 1.25 g | CC(C)(C)[O-].[Na+]
reactant | N-boc piperazine | 10.2 mmol, 1.9 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | HCl | 7 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 4-Piperazin-1-yl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H16N2O2
